US07915281B2
Under a nitrogen atmosphere, a solution of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine (2.62 g, 4.23 mmol) in trifluoroacetic acid (25 mL) was stirred at room temperature for 2.7 days. The solution was then worked-up and the product isolated and purified as described in Part B of Example 21 to provide 0.549 g of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine as a white powder, mp 227.0-229.0° C.

reactant | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-N,N-bis(4-methoxybenzyl)-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 4.23 mmol, 2.62 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C(=NC(=C(C21)C)C)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)CCC | C37H38FN5O3
solvent | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-6,7-dimethyl-2-propyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.549 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C(=NC(=C(C21)C)C)N)CCC | C21H22FN5O
